* source LAB1
R_R1         N01430 0  1k TC=0,0 
V_V3         N01443 0 5Vdc
D_D3         N01443 N01430 Dbreak 
D_D4         N01423 N01430 Dbreak 
V_V2         N01423 0 9Vdc
